### PR TITLE
Refactoring accross topology/normedtype/sequences

### PR DESCRIPTION
**Pull request by CohenCyril**
##### Motivation for this change

Many lemmas were not general enough, we try to achieve optimal generality for equivalence lemmas between convergence.

CC @affeldt-aist  @zstone1 

##### Things done/to do

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`
  (do not edit former entries, only append new ones, be careful:
   merge and rebase have a tendency to mess up `CHANGELOG_UNRELEASED.md`)
- [ ] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

**Comment by zstone1** [comment]
As usual, I can offer the topologist perspective. I'm pretty sure all these 'tfae' happen because the spaces are total orders in the order topology. Exactly how to define the order topology to make it usable here... I don't know. One thing I've thought about is to define a predicate 
```
order_basis (T : ordered) = intervals + rays
order_topology (T : ordered & topological) := forall x, nbhs x = filter_from id [ set A |  x \in A, A \in order_basis T]
```
Obviously there are a lot of reasons why the above won't compile directly. This appears be begging to become HB structure. 

Then, we'd need to prove that `R`, `\bar R`, `nat`, are all in the order topology, and that the reverse order has the same topology. Then prove the 'tfae' just once. Do you think it's worth it?

**Comment by CohenCyril** [comment]
@zstone1 Thanks for your insight. I'm not sure it's worth it before HB, but afterwards... I'll like to have this (and so much more...)

File: theories/normedtype.v [hunk 1]
```diff
@@ -423,12 +418,518 @@ Proof. by exists r. Qed.
...
+rewrite -cvgNey -fmap_comp (_ : (-%E \o -%E) = id)//.
+by apply/funeqP => x /=; rewrite oppeK.
+Qed.
+
+End more_extend.
+
+Section fmap.
+Context {I : Type} {F : set (set I)} {FF : Filter F} (f : I -> \bar R).
+
+Lemma fcvgeyPger :
```
Comment (affeldt-aist) [inline theories/normedtype.v:788]: What about `fcvgy_geeEFin`? (The first `e` is a bit redundant with `y`, the inequality is about the extended reals, `%:E` should be clear when we see `EFin`, `P` is maybe implicit.) (It is an attempt to have an identifier a bit more "readable".)

File: theories/normedtype.v [hunk 2]
```diff
@@ -2164,48 +2768,88 @@ Proof. by have := cvgP _ (cvg_norm _); apply. Qed.
...
 
 Lemma ereal_is_cvgrM f y : y \is a fin_num ->
   cvg (f @ F) -> cvg ((fun n => y * f n) @ F).
 Proof.
-by move=> yfn /cvg_ex[l fl]; apply: (cvgP (y * l)); exact: ereal_cvgrM.
+by move=> yfn /cvg_ex[l fl]; apply: (cvgP (y * l)); exact: cvgeMl.
 Qed.
 
-Lemma ereal_cvgMr f x y : y \is a fin_num ->
+Lemma cvgeMr f x y : y \is a fin_num ->
```
Comment (affeldt-aist) [inline theories/normedtype.v:2792]: Have you consider `ecvg` instead of `cvge`? That maybe would have seemed more natural to me because `e` as a prefix look a bit like an argument.

Comment (CohenCyril) [reply theories/normedtype.v:2589]: Because it is an argument...

Comment (affeldt-aist) [reply theories/normedtype.v:2589]: Rather the type of an argument. This looks much like the positional naming convention we have throughout `ereal.v` files and I guess it is what bothered me. Still `cvg` only has one argument so why not.

File: theories/normedtype.v (hunk 1 above)
Comment (CohenCyril) [reply theories/normedtype.v]: `e` and `y` are not redundant since there is the exact same lemma with `r` instead of `e`. `EFin` is not relevant either...

File: theories/set_interval.v [hunk 3]
```diff
@@ -279,35 +279,59 @@ Coercion ereal_of_itv_bound T (b : itv_bound T) : \bar T :=
...
 
-Lemma ereal_mem_Interval (R : realDomainType) (r : R) (a b : itv_bound R) :
+Lemma ereal_mem_Interval (r : R) (a b : itv_bound R) :
   (a < r%:E < b)%E -> r \in Interval a b.
 Proof.
 move: a b => [[]a|[]] [[]b|[]] //=; rewrite ?lte_fin ?in_itv //= => /andP[] //;
 by do ?[move->|move/ltW|move=>_].
 Qed.
 
+Lemma itv_cpinfty_pinfty : `[+oo%E, +oo[%classic = [set +oo%E] :> set (\bar R).
```
Comment (affeldt-aist) [inline theories/set_interval.v:312]: `itv_cpinfty_pinfty` -> `itv_cyy` and so on?

Comment (CohenCyril) [reply theories/set_interval.v:312]: Yes indeed, I didn't touch these yet.

Comment (affeldt-aist) [reply theories/set_interval.v:312]: note that PR #784 proposes to rename the file,
lemma renaming can maybe happen there

**Comment by CohenCyril** [comment]
@affeldt-aist modulo the update of the change log and the deprecated declarations, I think I'm done.

File: theories/normedtype.v (hunk 1 above)
Comment (affeldt-aist) [reply theories/normedtype.v]: It looks like the `f` prefix has been dropped for these lemmas in the last version and I find it a bit better.

File: theories/set_interval.v (hunk 3 above)
Comment (affeldt-aist) [reply theories/set_interval.v]: since PR #784 has been merged and this PR rebased, I performed the renaming

**Review by affeldt-aist — APPROVED** [review]
Let's get all the generalizations and renamings in master as soon as possible!

**Comment by CohenCyril** [comment]
By starting to turn "removed" into "deprecated" I uncovered a problem: `cvg_le` and `cvgr_le` are almost nameclashes (there is no reason there is no `r` in the first one, and the statements are too different). I believe the `cvgr` lemmas should be renamed `nbhsr`

**Comment by CohenCyril** [comment]
@affeldt-aist I'm done...

**Comment by CohenCyril** [comment]
@proux01 @zstone1 would you be able to re-review this PR quickly? It already has been reviewed and approved by @affeldt-aist and I changed it slightly (mostly fixing kludges in naming, adding deprecation warnings here and there and making a changelog generator)

File: theories/constructive_ereal.v [hunk 4]
```diff
@@ -835,11 +850,13 @@ Qed.
...
-Proof. by case: x. Qed.
+Lemma addye x : x != -oo -> +oo + x = +oo. Proof. by case: x. Qed.
 
-Lemma addey x : x != -oo -> x + +oo = +oo.
-Proof. by case: x. Qed.
+Lemma addey x : x != -oo -> x + +oo = +oo. Proof. by case: x. Qed.
+
+Lemma addNye x : -oo + x = -oo. Proof. by []. Qed.
+
+Lemma addeNy x : x + -oo = -oo. Proof. by case: x. Qed.
```
Comment (proux01) [inline theories/constructive_ereal.v:859]: There should probably be dual lemmas for those (with dual addition `dual_adde`).

File: classical/mathcomp_extra.v [hunk 5]
```diff
@@ -35,6 +36,8 @@ Reserved Notation "f \- g" (at level 50, left associativity).
 Reserved Notation "\- f"  (at level 35, f at level 35).
 Reserved Notation "f \max g" (at level 50, left associativity).
 
+Number Notation positive Pos.of_num_int Pos.to_num_uint : AC_scope.
```
Comment (proux01) [inline classical/mathcomp_extra.v:39]: Maybe add a comment to remember to remove that (and the `Require Import BinPos` at the beginning of the file) once mathcomp 1.15.0 becomes the minimum required version.

**Comment by proux01** [comment]
@CohenCyril I had a very quick look and this looks good to me (but I'm no expert in most of the changes).

**Comment by proux01** [comment]
@CohenCyril would you do the rebase of hierarchy-builder branch once merged?

**Comment by CohenCyril** [comment]
> @CohenCyril would you do the rebase of hierarchy-builder branch once merged?

Ok, no problem

File: classical/mathcomp_extra.v (hunk 5 above)
Comment (CohenCyril) [reply classical/mathcomp_extra.v:39]: The comment is 25 lines above

File: theories/constructive_ereal.v (hunk 4 above)
Comment (CohenCyril) [reply theories/constructive_ereal.v:859]: Good catch!

File: classical/mathcomp_extra.v (hunk 5 above)
Comment (proux01) [reply classical/mathcomp_extra.v:39]: Indeed, my bad

**Review by zstone1 — APPROVED** [review]
Looks like a big improvement to me. The extra theory for manipulating limits and inequalities is great. 

I'm happy to merge as is. There's definitely some follow-up work, such as splitting `normedtype.v`, but that's a problem for another day.

**Comment by CohenCyril** [comment]
Thanks @affeldt-aist @zstone1 and @proux01 for your reviews
